US05674886
2.8 Milliliters of acetic anhydride was added to 15 ml of a pyridine solution containing 0.62 g of 4-[(4-nitrophenyl)amino]-4H-1,2,4-triazole at room temperature and the mixture was stirred for about 2 hours. After completion of reaction, the solvent was removed by distillation under reduced pressure, and a proper amount of an aqueous sodium hydrogencarbonate solution was added to the residue obtained, which was then extracted several times each with ethyl acetate. The ethyl acetate layer was washed with water and dried over anhydrous magnesium sulfate, and the solvent was removed by distillation under reduced pressure. The residue was purified by silica gel column chromatography to give 0.52 g of 4-[N-acetyl-N-(4-nitrophenyl)amino]-4H-1,2,4-triazole from the chloroform/methanol (100/1) eluate.

reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | 4-[(4-nitrophenyl)amino]-4H-1,2,4-triazole | 0.62 g | [N+](=O)([O-])C1=CC=C(C=C1)NN1C=NN=C1 | C8H7N5O2
solvent | pyridine | 15 ml | N1=CC=CC=C1 | C5H5N
product | 4-[N-acetyl-N-(4-nitrophenyl)amino]-4H-1,2,4-triazole | 0.52 g | C(C)(=O)N(C1=CC=C(C=C1)[N+](=O)[O-])N1C=NN=C1 | C10H9N5O3
